US04345934
n-Butyl 1-(4-iodophenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylate
To 50 ml of n-butanol, cooled to -5° C., there is added dropwise 2.62 g (0.022 mol) of thionyl chloride. The solution is stirred at 0° C. for 15 minutes and to it there is added 7.12 g (0.02 mol) of 1-(4-iodophenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic acid. (See Example 3). The suspension formed is stirred at room temperature for 3 days and to it there is added 150 ml of hexane. The suspension is stirred at room temperature for 2 days and is vacuum filtered. The filter cake (HCl salt of the desired product) is air dried and slurried in 150 ml of water for 3 hrs. The suspension is vacuum filtered to afford 4.25 g (52% yield) of product, mp 134°-137° C.

reactant | n-butanol | 50 ml | C(CCC)O | C4H10O
reactant | thionyl chloride | 0.022 mol, 2.62 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(4-iodophenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic acid | 0.02 mol, 7.12 g | IC1=CC=C(C=C1)N1N=C(C(C=C1C)=O)C(=O)O | C12H9IN2O3
solvent | hexane | 150 ml | CCCCCC | C6H14
product | n-Butyl 1-(4-iodophenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylate | 4.25 g, 52% yield | IC1=CC=C(C=C1)N1N=C(C(C=C1C)=O)C(=O)OCCCC | C16H17IN2O3
